US04113729
To a solution of 3.4 g (0.007 mol) of (-)-3-phenoxy-N-trichlorocarbethoxymorphinan in 40 ml of 90% acetic acid was added portionwise 2.0 g of zinc-dust. The mixture was stirred at room temperature for 16 hours and filtered. The filtrate was concentrated in vacuo and the residue was partitioned between ether and dilute ammonium hydroxide. The ether solution was extracted with 4 N hydrochloric acid. The acidic solution was extracted with chloroform. After removal of chloroform, the crude hydrochloride was crystallized from ethanol to afford 0.7 g (29%) of (-)-3-phenoxymorphinan hydrochloride, mp 322°-324°, [α]25D -33.88° (c 1.00, MeOH).

reactant | (-)-3-phenoxy-N-trichlorocarbethoxymorphinan | 0.007 mol, 3.4 g | O(C1=CC=CC=C1)C=1C=CC=2C[C@@H]3[C@@H]4CCCC[C@@]4(C2C1)CCN3C(=O)OCC(Cl)(Cl)Cl | C25H26Cl3NO3
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 2.0 g | [Zn] | Zn
product | (-)-3-phenoxymorphinan hydrochloride | 0.7 g, 29% | Cl.O(C1=CC=CC=C1)C=1C=CC=2C[C@@H]3[C@@H]4CCCC[C@@]4(C2C1)CCN3 | InChI=1S/C22H25NO.ClH/c1-2-6-17(7-3-1)24-18-10-9-16-14-21-19-8-4-5-11-22(19,12-13-23-21)20(16)15-18;/h1-3,6-7,9-10,15,19,21,23H,4-5,8,11-14H2;1H/t19-,21+,22+;/m0./s1
